US08431695B2
Step 2: Preparation of 2-benzyl-5-bromo-1,3-benzothiazole
In a manner similar to the procedure described for Step 2 of the preparation of 5-(2-benzyl-1,3-benzothiazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine and using 5-bromo-2-(methylthio)-1,3-benzothiazole and benzylzinc bromide as starting material, 1.30 g (48%) of the desired product was isolated. 1H NMR (400 MHz, DMSO-d6) δ 8.18 (s, 1H), 7.99 (d, 1H), 7.56 (d, 1H), 7.40-7.18 (m, 5H), 4.44 (s, 2H); LC-MS m/z [M+H]+304.3 & 306.3, RT 5.16 min.

reactant | 5-(2-benzyl-1,3-benzothiazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | C(C1=CC=CC=C1)C=1SC2=C(N1)C=CC(=C2)C=2C=C(N1N=CN=C(C12)N)C1CCNCC1 | C25H24N6S
reactant | 5-bromo-2-(methylthio)-1,3-benzothiazole | BrC=1C=CC2=C(N=C(S2)SC)C1 | C8H6BrNS2
reactant | benzylzinc bromide | [Br-].C(C1=CC=CC=C1)[Zn+]
product | 2-benzyl-5-bromo-1,3-benzothiazole | 1.30 g, 48% | C(C1=CC=CC=C1)C=1SC2=C(N1)C=C(C=C2)Br | C14H10BrNS
